US04511567
21 g (0.076 mole) of 2-tert.-butyl-6-isothiocyano-5-methoxy-benzthiazole are dissolved in 400 ml of acetone and a solution of 12 g (0.092 mole) of N-(2-hydroxyethyl)-piperazine in 40 ml of acetone is added dropwise. The mixture is stirred for 2 hours, cooled to 0° , filtered and washed with acetone, then with ether and finally with petroleum ether. 2-tert.-butyl-5-methoxy-6-{[4-(2-hydroxyethyl)-piperazin-1-yl]-thiocarbonylamino}-benzthiazole having a melting point of 161-162° is obtained.

reactant | 2-tert.-butyl-6-isothiocyano-5-methoxy-benzthiazole | 0.076 mole, 21 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)N=C=S)OC | C13H14N2OS2
reactant | N-(2-hydroxyethyl)-piperazine | 0.092 mole, 12 g | OCCN1CCNCC1 | C6H14N2O
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-tert.-butyl-5-methoxy-6-{[4-(2-hydroxyethyl)-piperazin-1-yl]-thiocarbonylamino}-benzthiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)NC(=S)N2CCN(CC2)CCO)OC | C19H28N4O2S2
